US06177154B1
To a 500 ml three neck flask provided with a stirrer, thermometer, and cooling tube were added 20.0 g (76.7 mmol) of 2,6-difluoro-4-bromobenzotrifluoride, 12.9 g (222.9 mmol) of potassium hydroxide, and 100 ml of ethanol, and heated to reflux while being stirred for 4 hours. After unreacted ethanol was distilled off under a reduced pressure from the reaction mixture, 200 ml of water was added thereto and extracted with 200 ml of diethyl ether. The extract was washed with water (150 ml) thrice and then dried over anhydrous magnesium sulfate. The colorless oily product in an amount of 20.5 g which was obtained by distilling off the solvent was purified by silica gel column chromatography (eluent: heptane) to obtain 18.7 g of colorless oily 2-fluoro-4-bromo-6-ethoxybenzotrifluoride.

reactant | 2,6-difluoro-4-bromobenzotrifluoride | 76.7 mmol, 20.0 g | FC1=C(C(=CC(=C1)Br)F)C(F)(F)F | C7H2BrF5
reactant | potassium hydroxide | 222.9 mmol, 12.9 g | [OH-].[K+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-fluoro-4-bromo-6-ethoxybenzotrifluoride | 18.7 g | FC1=C(C(=CC(=C1)Br)OCC)C(F)(F)F | C9H7BrF4O
